US06013658
(2R)-2-Amino-3-(2-naphthyl)propionthioamide (0.290 g; 1.2 mmol), (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid (0.436 g; 1.3 mmol), HOBT (0.176 g; 1.3 mmol) and EDAC (0.267 g; 1.4 mmol) were dissolved in methylene chloride (20 ml) and stirred 12 hours at RT. Methylene chloride (40 ml) was added and the organic phase was washed with aqueous sodium hydrogensulfate (10%; 40 ml), aqueous sodium hydrogencarbonate (satd.; 40 ml) and dried (Magnesium sulfate). The solvent was removed in vacuo to afford 0,53 g of N-methyl-N-((1R)-2-(2-naphthyl)-1-((1R)-2-(2-naphthyl)-1-thiocarbamoylethylcarbamoyl)ethyl)carbamic acid tert-butylester.

reactant | (2R)-2-Amino-3-(2-naphthyl)propionthioamide | 1.2 mmol, 0.290 g | N[C@@H](C(N)=S)CC1=CC2=CC=CC=C2C=C1 | C13H14N2S
reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | 1.3 mmol, 0.436 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | HOBT | 1.3 mmol, 0.176 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 1.4 mmol, 0.267 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-((1R)-2-(2-naphthyl)-1-((1R)-2-(2-naphthyl)-1-thiocarbamoylethylcarbamoyl)ethyl)carbamic acid tert-butylester | 0,53 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N)=S)=O)C)=O | C32H35N3O3S
